US07183276B2
Ethyl 2-[2-(1H-benzimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]-2-oxoacetate (3.50 g) was dissolved in a mixed solvent of tetrahydrofuran (60 mL)-ethanol (20 mL), sodium borohydride (100 mg) was added at 0° C. and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into water, and the precipitated solid was collected by filtration and dried. The obtained solid was added to thionyl chloride (10 mL) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated and poured into 10% aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in acetic acid (50 mL) and zinc powder (10 g) was added. The mixture was stirred with heating under reflux for 30 min. Insoluble material was removed by filtration, and the filtrate was concentrated and poured into 10% aqueous sodium hydrogen carbonate solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography and ethyl 2-[2-(1H-benzimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]acetate (2.07 g, 61%) was obtained as crystals from a fraction eluted with acetone-hexane (1:2, volume ratio). Recrystallization from acetone-isopropyl ether gave colorless needle crystals. melting point: 152–153° C.

reactant | Ethyl 2-[2-(1H-benzimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]-2-oxoacetate | 3.50 g | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)C(C(=O)OCC)=O | C20H14ClN3O4
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 2-[2-(1H-benzimidazol-1-yl)-4-(4-chlorophenyl)-5-oxazolyl]acetate | 2.07 g, 61% | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C2=CC=C(C=C2)Cl)CC(=O)OCC | C20H16ClN3O3
